Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
seizure
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ right-handed man with past medical
history of frontal lobe epilepsy, migraines, rhabdomyolysis,
mitochondrial metabolic myopathy presenting with increased
seizure frequency.

Patient was admitted to the Epilepsy service from ___.
During his stay, EEG showed >100 electrographic seizures during
sleep causing arousals. Onfi 5 mg QAM and 10 mg QPM was added 
on.

Patient was scheduled for a follow-up with Epilepsy attending,
Dr. ___, in ___, but he had reschedule to ___ since
he could not schedule the planned 48 hour ambulatory EEG in 
time.

After discharge, Onfi worked really well for first few days
initially with no seizures at all. After ___ days, he started
having a few of his typical episodes every 3 nights and then 
fall
asleep. In the past week, Onfi seems to have stopped working and
he has had multiple episodes every day. Today, he had about 15
tonight because he kept trying to fall asleep instead of taking 
a
break and getting up.  

His episodes are described as a fully body jerk with R arm
stiffening and R head turn. Both eyes have blurry vision during
these episodes for ___ seconds.

Sometimes episodes have woken him up at 6 am. He has lost some
sleep as a result. 

They only occur when he is about to fall asleep. He denies any
warning or aura was prior to these episodes.

Denies any symptoms of recent illness. Denies any new stressors
in his personal or professional life. Denies any new dietary
changes. He is unable to think of any significant change in his
life recently. His migraines have been well controlled on
verapamil and occur very infrequently.

On previous admission in ___, he reported: 
"Baseline frequency is about once every few weeks or few months.
Starting in ___ he started having ___ episodes per week but
each episode was isolated to one per night. Starting 2 weeks ago
he started having multiple events per night. Frequency increased
more this week and he had more than 20 last night. They are
preventing him from sleeping which prompted him to present to 
the
ED. He sees Dr. ___ recurrent rhabdomyolysis and
mitochondrial metabolic myopathy. He use to be followed for
epilepsy at ___ for many years. Last year he is
was seen at ___ epilepsy clinic but he is in the process of
transferring his epilepsy care to ___ because he wanted this
consistently see the same epileptologist instead of changing
residents or fellows each year.
In ___, he was taking lamotrigine 375 mg twice daily but
was found to have supratherapeutic levels. In the ___ his 
dose
was decreased to 225 mg twice daily which led to worsening
symptoms. Since ___, he has been taking lamotrigine 300
mg twice daily and episodes returned to baseline frequency."

Seizure History: 
He has had epilepsy since age ___ which began with loss of vision
and stumbling and progressed to generalized seizures at age ___.
He has been has not had any generalized tonic-clonic seizures
since age ___.

___ notes from ___ detail that he also has seizures which 
are
complex partial seizures involving the loss of vision, right arm
flexion, fumbling automatisms with right head turn. The notes 
say
that he has been seizure-free for ___ years, but has been having
occasional myoclonus.

He denies having episodes of complex partial seizures involving
vision loss with right arm flexion and automatisms. Per ___ 
note,
"He will have occasional myoclonic jerks on falling asleep, but
not in early morning hours; however, he is quite adamant that
these myoclonic jerks are related to his epilepsy and different
from the "usual" single limb jerks he might have on falling
asleep sometimes."

Denies any predisposing risk factors for epilepsy. He has had a
couple of concussions which occurred after the onset of his
epilepsy.

Per last note from ___ by Dr. ___ and Dr. ___
dated ___: "LTM study in ___ which captured 6 seizures in
the awake ___ which are described as fumbling/automatisms on
the left side with generalized electro-decremental EEG. From
___ he seemed to have events described as stiffening of 
his
extremities and since seeing us in ___ has been seizure 
free."
"Doing well on LTG 300mg bid. No seizures. Still has occasional
early morning myoclonus."

"Seizure Semiology: 
#1 Complex partial seizures Warning/Aura: None. Loses vision,
feels that he going to fall Spell: Nocturnal, during transition
to sleep, when patient is drowsy. Rarely occurs during the day.
Turns his head and body to the right, with right arm flexion at
the elbow and manual automatisms in his right hand. This spell
last a few seconds, but can cluster several times. Recently, it
clusters only twice in the same night. Patient has partial
awareness of it. It does not typically evolve to GTC. 
Post-ictal:
falls asleep. Frequency: None in last few years Obs: Reportedly
captured at ___ and found to be seizures according to
patient. Records showed electrographic seizures occurring only
during wakefulness. 

#2 GTCs Spell: No aura, quick onset, GTCs are occasionally
associated with urinary incontinence, but no tongue biting.
Duration: 3 minutes. Post-ictal: migraine headache, tired,
confused, sleeps for hours. No post-ictal aphasia. Frequency:
rare Last time: more than ___ years ago. 

#3 Whole-body jerks (? Myoclonic seizures) Spell: whole-body
jerks, in isolation, typically in the morning or at night
Frequency: 1/month 

#4 Drops attacks (? Atonic seizures) Spell: In middle school,
would fall to the ground, but quickly turn around and get back
up. Not occurring since then. Current AED: lamotrigine 300mg bid 


Prior AEDs:
Topamax - concern for worsening hyperCKemia from 
exercise-induced
rhabo, but episodes of exercise-induced rhabo started before
topamax and continued to happen afterwards 
Dilantin - gum hyperplasia, breakthrough seizures 
Keppra - Ineffective (patient states it made him angry) 
Tegretol - Ineffective Lorazepam prn"

"Epilepsy Risk Factors and Birth/Developmental History: no
history of brain tumor, CNS infection, or family history of
epilepsy. Normal birth and development. No history of febrile
seizures. Epilepsy Workup: MRI brain ___: Normal, left
temporal arachnoid cyst EEG : Ambulatory 24h EEG (Outside,
___: This is an abnormal EEG due to the presence of
generalized discharges present over the frontal-temporal regions
bilaterally. Findings suggest the presence of a generalized
seizure disorder, though the possibility of a secondary 
bilateral
synchrony could not be excluded. Routine EEG (Outside
___: Normal awake and sleep. Routine EEG (Outside,
___: This study is abnormal due to runs of rhythmical 
fast
waves both in wakefulness and sleep which showed predominance
over the left hemisphere. In addition, there were distinct runs
of bilaterally synchronous spike and wave or sharp and slow wave
complexes. The latter findings indicate the presence of an
epileptic disorder. Ambulatory 24h EEG (Outside, ___:
Abnormal due to: 1. Numerous, often repetitive, left
fronto-central parasagittal epileptiform sharp and wave
discharges often spreading to midline and secondary, bilaterally
synchronous, less well developed epileptiform discharges in the
right fronto-central parasagittal region. Two partial onset
electrographic seizures noted to emanate from the left
fronto-central parasagittal region lasting 60 seconds on one
occasion and 90 seconds on the other, both occurring during
wakefulness and without notation of any clinical event in the
patient's dairy."
 
ROS: 
On neurological review of systems, the patient denies headache,
confusion, difficulties producing or comprehending speech, loss
of vision, blurred vision, diplopia, dysarthria, dysphagia,
lightheadedness, vertigo, tinnitus or hearing difficulty. Denies
focal weakness, numbness, parasthesiae. No bowel or bladder
incontinence or retention. Denies difficulty with gait.
 
On general review of systems, the patient denies recent fever, 
chills, night sweats, or recent weight changes. Denies cough,
shortness of breath, chest pain or tightness, palpitations. 
Denies nausea, vomiting, diarrhea, constipation or abdominal
pain.  Denies dysuria, or recent change in bowel or bladder
habits.  Denies arthralgias, myalgias, or rash.

 
Past Medical History:
#PILEPSY                                                        
Since age ___. Well controlled with BID keppra. Will occasionally 
have short little seizures at night (5x a month). Last grand Mal
was around ___. Neurologist. Dr. ___ at ___    
___ in ___.                                          

MIGRAINE HEADACHES                                              
Just started in ___. Twice a month. Started topamax in ___. With  resolution.                                      

RHABDOMYOLYSIS                                                  
Mitochondrial metabolic myopathy NOS. 

 
Social History:
Work: ___
Multiple partners:  Present                                     
___ activity:    Present                                     
Contraception:      Condoms - Male                              
Tobacco use:        Former smoker                               
Smoking cessation   Yes                                         
counseling offered:                                             
     Year Quit:     ___                                        
     Years Since    2                                           
     Quit:                                                      
Alcohol use:        Present                                     
drinks per week:    ___                                          

Recreational drugs  Present                                     
(marijuana, heroin,                                             
crack pills or                                                  
other):                                                         
Recreational drugs  daily marijuana use  

 
Family History:
Relative Status   Age Problem              Onset Comments       
Mother   Living                                                 

Father   Living       MIGRAINE HEADACHES                        
                      HEMOCHROMATOSIS                           

Brother  Living                                                 

Sister   Living                                                 
Paternal aunt - brain tumor
___ grandmother - breast cancer  
 
Physical Exam:
Vitals: T:97.5   HR:85   BP:141/91   RR:18   SaO2:93% on RA

General: Awake, cooperative young man sitting comfortably in 
bed,
looks more tired than previous ED visit, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple . No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, ___, exact date. Able
to relate history without difficulty. Attentive, able to name 
___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Able to name both high and low frequency
objects.  Able to read without difficulty. No dysarthria. Able 
to
follow both midline and appendicular commands.  There was no
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. Normal saccades. VFF to confrontation.  
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
  [___]
L    5    5    5    5    5    5   5    5    5   5    5    5
R    5    5    5    5    5    5   5    5    5   5    5    5

-Sensory: No deficits to light touch throughout. No extinction 
to
DSS. Romberg absent.

-Reflexes:
  [Bic] [Tri] [___] [Pat] [Ach]
L   2     2      2      2     1
R   2     2      2      2     1 
Plantar response was flexor bilaterally.

-Coordination: No intention tremor. Normal finger-tap
bilaterally. No dysmetria on FNF bilaterally.

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.

DISCHARGE PHYSICAL EXAM:
General: Awake, laying in bed
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx.
Neck: Supple. No nuchal rigidity.
Pulmonary: Normal work of breathing.
Cardiac: RRR, warm, well-perfused.
Abdomen: Soft, non-distended.
Extremities: No ___ edema.
Skin: No rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented to self, ___, exact date. Able
to relate history without difficulty. Language is fluent Normal 
prosody. There were no paraphasic errors.  No dysarthria. Able 
to follow both midline and appendicular commands.  There was no 
evidence of apraxia or neglect.

-Cranial Nerves:
II, III, IV, VI:  PERRL 3 to 2mm and brisk. EOMI without
nystagmus. 
V: Facial sensation intact to light touch.
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to conversation
IX, X: Palate elevates symmetrically.
XI:
XII: Tongue protrudes in midline 

-Motor: Normal bulk and tone throughout. No pronator drift. No
adventitious movements, such as tremor or asterixis noted.
IP ___ b/l

-Sensory: No deficits to light touch throughout

-Coordination: No intention tremor. 

-Gait: Good initiation. Narrow-based, normal stride and arm
swing.  Able to walk in tandem without difficulty.

 
Pertinent Results:
___ 04:50AM BLOOD WBC-6.9 RBC-4.33* Hgb-13.5* Hct-41.7 
MCV-96 MCH-31.2 MCHC-32.4 RDW-12.0 RDWSD-42.6 Plt ___
___ 04:50AM BLOOD ___ PTT-31.6 ___
___ 04:50AM BLOOD Glucose-94 UreaN-22* Creat-1.3* Na-142 
K-4.5 Cl-103 HCO3-27 AnGap-12
___ 04:50AM BLOOD CK(CPK)-100
___ 04:50AM BLOOD Calcium-10.0 Phos-3.9 Mg-2.0
___ 04:50AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 06:00AM URINE Color-Straw Appear-Clear Sp ___
___ 06:00AM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG
___ 06:00AM URINE bnzodzp-POS* barbitr-NEG opiates-NEG 
cocaine-NEG amphetm-NEG oxycodn-NEG mthdone-NEG
 
Brief Hospital Course:
___ right-handed man with past medical history of 
frontal lobe epilepsy, migraines, rhabdomyolysis, presenting 
with increased seizure frequency. He was having more of his 
typical seizures. His clobazam was increased to 10 mg in the 
morning and 15 mg at night initially. He was hooked up to EEG, 
which occurred after the increase in clobazam. He had no 
seizures overnight on EEG after this increase initially. The 
next night he had a few night time brief seizures, so his 
clobazam was increased to 10 mg in the morning and 20 mg at 
night, as most of his seizures are at night.

TRANSITIONAL ISSUES:
Elevated Cr: His Cr was 1.3 this admission (eGFR 60-75), at 
baseline it appears to be around the 1.1-1.3 range. This seems 
high for his age, could potentially benefit from seeing 
nephrology outpatient.

seizures:
continue clobazam at 10 mg qam, 20 mg qpm as well as lamotrigine 
300 mg BID. follow up drug levels from this admission. Follow up 
in clinic
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LamoTRIgine 300 mg PO BID 
2. Clobazam 10 mg PO QPM 
3. Clobazam 5 mg PO QAM 
4. Verapamil 40 mg PO DAILY 

 
Discharge Medications:
1.  Clobazam 10 mg PO QAM 
RX *clobazam 10 mg ___ tablet(s) by mouth twice a day Disp #*90 
Tablet Refills:*2 
2.  Clobazam 20 mg PO QPM  
3.  LamoTRIgine 300 mg PO BID  
4.  Verapamil 40 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
epilepsy
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were hospitalized because your seizures were becoming more 
frequent. You were monitored on EEG and your medications 
adjusted. We increased your clobazam to 10 in the morning and 20 
mg at night. You had some brief night time seizures when you 
were on 10 in the morning and 15 mg at night. As your seizure 
control improved, you were discharged from the hospital. You 
will follow up with Dr. ___ in epilepsy. If you feel too 
sleepy on 10 in the morning and 20 mg at night, you could 
decrease to 10 mg in the morning at 15 mg at night. Consider 
talking to your primary care doctor about seeing a nephrologist 
as your kidney function is somewhat impaired for your age.

It was a pleasure taking care of you, sincerely,
Your ___ neurology team
 
Followup Instructions:
___